US07407961B2
A mixture of 3-amino-5-chloro-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide (500 mg), (4-methoxyphenyl)boronic acid (740 mg), and Pd(PPh3)4 (56.3 mg) in 2M aq. Na2CO3 (3.25 ml) and dioxane (20 ml) was refluxed for 3 hours. Water (40 ml) and of EtOAc (30 ml) were poured into the reaction mixture and the aqueous solution was extracted with EtOAc. The organic layer was washed with water and brine, and dried over MgSO4. After filtration, the solvent was removed under reduced pressure. The residual solid was placed on a column of silica-gel and eluted with CHCl3:MeOH (25:1). The eluent was evaporated and the residue was suspended with IPE and filtrated to give 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-(4-methoxyphenyl)-2-pyrazinecarboxamide (512 mg) as a yellow powder.

reactant | 3-amino-5-chloro-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide | 500 mg | NC=1C(=NC(=C(N1)Cl)C1=CN(C(C=C1)=O)C(C)C)C(=O)N | C13H14ClN5O2
reactant | (4-methoxyphenyl)boronic acid | 740 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Water | 40 ml | O | H2O
reactant | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
solvent | Na2CO3 | 2M, 3.25 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 56.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-(4-methoxyphenyl)-2-pyrazinecarboxamide | 512 mg | NC=1C(=NC(=C(N1)C1=CC=C(C=C1)OC)C1=CN(C(C=C1)=O)C(C)C)C(=O)N | C20H21N5O3
